* OP484 SPICE Macro-model           
* Description: Amplifier
* Generic Desc: 3/30V, BIP, OP, Low Noise, RRIO, 4X
* Developed by: ARG / ADSC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (11/1995)
* Copyright 1993, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes: 
*
* Not Modeled:
*    
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  output
*                |  |  |  |  |
.SUBCKT OP484    1  2  99 50 45
*
* INPUT STAGE
*
Q1   5    2    3    QIN 1
Q2   6    11   3    QIN 1
Q3   7    2    4    QIP 1
Q4   8    11   4    QIP 1
DC1  2    11   DC
DC2  11   2    DC
Q5   4    9    99   QIP 1
Q6   9    9    99   QIP 1
Q7   3    10   50   QIN 1
Q8   10   10   50   QIN 1
R1   99   5    4E3
R2   99   6    4E3
R3   7    50   4E3
R4   8    50   4E3
IREF 9    10   50.5E-6
EOS  1    11   POLY(2) (22,98) (14,98) -25E-6 1E-2 1
IOS  2    1    1E-9
CIN  1    2    2E-12
GN1  98   1    (17,98) 1E-3
GN2  98   2    (23,98) 1E-3
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
VN1  13   98   DC 2
VN2  98   15   DC 2
DN1  13   14   DEN
DN2  14   15   DEN
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
VN3  16   98   DC 2
VN4  98   18   DC 2
DN3  16   17   DIN
DN4  17   18   DIN
*
* 2ND CURRENT NOISE SOURCE WITH FLICKER NOISE
*
VN5  19   98   DC 2
VN6  98   24   DC 2
DN5  19   23   DIN
DN6  23   24   DIN
*
* GAIN STAGE
*
EREF 98   0    POLY(2) (99,0) (50,0) 0 0.5 0.5
G1   98   20   POLY(2) (6,5) (8,7) 0 0.5E-3 0.5E-3
R9   20   98   1E3
*
* COMMON MODE STAGE WITH ZERO AT 100HZ
*
ECM  98   21   POLY(2) (1,98) (2,98) 0 0.5 0.5
R10  21   22   1
R11  22   98   100E-6
C4   21   22   1.592E-3
*
* NEGATIVE ZERO AT 20MHZ
*
E1   27   98   (20,98) 1E6
R17  27   28   1
R18  28   98   1E-6
C8   25   26   7.958E-9
ENZ  25   98   (27,28) 1
VNZ  26   98   DC 0
FNZ  27   28   VNZ -1
*
* POLE AT 40MHZ
*
G4   98   29   (28,98) 1
R19  29   98   1
C9   29   98   3.979E-9
*
* POLE AT 40MHZ
*
G5   98   30   (29,98) 1
R20  30   98   1
C10  30   98   3.979E-9
*
* OUTUT STAGE
*
ISY  99   50   0.276E-3
GIN  50   31   POLY(1) (30,98) .862574E-6 505.879E-6
RIN  31   50   2.75E6
VB   99   32   0.7
Q11  32   31   33   QON 1
R21  33   34   4.5E3
I1   34   50   50E-6
R22  99   35   6E3
Q12  36   36   35   QOP 1
I2   36   50   50E-6
R23  99   37   2.6E3
R24  34   38   5E3
Q13  39   36   37   QOP 1
Q14  39   38   40   QON 1.5
R25  40   50   40
Q15  39   39   41   QON 1
R26  41   42   1E3
R27  99   43   220
Q16  44   44   43   QOP 1.5
Q17  44   39   42   QON 1
R28  42   50   2E3
VSCP 99   97   DC 0.088
FSCP 46   99   VSCP 1
RSCP 46   99   40
Q20  44   46   99   QOP 1
Q18  45   44   97   QOP 4.5
Q19  45   34   51   QON 4.5
VSCN 51   50   DC 0.081
FSCN 50   47   VSCN 1
RSCN 47   50   40
Q21  34   47   50   QON 1
CC2  31   45   20E-12
CF1  31   34   15E-12
CF2  31   42   15E-12
CO1  34   45   15E-12
CO2  42   45   5E-12
D3   45   99   DX
D4   50   45   DX
.MODEL DC D(IS=130E-21)
.MODEL DX D()
.MODEL DEN D(RS=100 KF=12E-15 AF=1)
.MODEL DIN D(RS=5.358 KF=56E-15 AF=1)
.MODEL QIN NPN(BF=120 VA=200 IS=0.5E-16)
.MODEL QIP PNP(BF=90 VA=60 IS=0.5E-16)
.MODEL QON NPN(BF=200 VA=200 IS=0.5E-16 RC=50)
.MODEL QOP PNP(BF=200 VA=200 IS=0.5E-16 RC=160)
.ENDS





